US07465731B2
The mixture of ethyl (2E)-5-chloro-4-oxo-2-pentenoate (0.5 g) and N-[1-(4-chlorobenzoyl)-3-pyrrolidinyl]thiourea (0.8 g) in acetonitrile (10 mL) was stirred at 70° C. for 3 hours, and the mixture was evaporated in vacuo. To the residue was added a solution of AcOEt and water, and the mixture was adjusted to pH 8 with 20% aqueous potassium carbonate. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel using AcOEt as an eluent. The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)acrylate (1.0 g).

reactant | ethyl (2E)-5-chloro-4-oxo-2-pentenoate | 0.5 g | ClCC(/C=C/C(=O)OCC)=O | C7H9ClO3
reactant | N-[1-(4-chlorobenzoyl)-3-pyrrolidinyl]thiourea | 0.8 g | ClC1=CC=C(C(=O)N2CC(CC2)NC(=S)N)C=C1 | C12H14ClN3OS
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)acrylate | 1.0 g | ClC1=CC=C(C(=O)N2CC(CC2)NC=2SC=C(N2)/C=C/C(=O)OCC)C=C1 | C19H20ClN3O3S
